US06525067B1
Methyl-carbamic acid 1-[2,5,6-trimethyl-7-(2,4,6-trimethyl-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-propyl ester
A mixture of 1-[2,5,6-trimethyl-7-(2,4,6-trimethyl-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-propan-1-ol(62 mg, 0.184 mmol), methyl isocyanate (0.25 ml), dimethylaminopyridine (20 mg) in dichloromethane (2 ml) was heated at reflux for 1 hr. Additional methyl isocyanate (0.25 ml) was added and the resulting mixture was stirred at room temperature overnight. The mixture was quenched with water and extracted with chloroform. The organic layer was separated, dried and concentrated to give a yellow foam (95 mg). The foam was purified by preparative thin layer chromatography plate in 10% methanol in chloroform, then in 20% methanol in chloroform as solvent to give the title compound (29 mg) as an off-white solid.

reactant | 1-[2,5,6-trimethyl-7-(2,4,6-trimethyl-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-propan-1-ol | 0.184 mmol, 62 mg | CC=1N=C(C2=C(N1)N(C(=C2C)C)C2=C(C=C(C=C2C)C)C)C(CC)O | C21H27N3O
reactant | methyl isocyanate | 0.25 ml | CN=C=O | C2H3NO
reactant | dimethylaminopyridine | 20 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | methyl isocyanate | 0.25 ml | CN=C=O | C2H3NO
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | Methyl-carbamic acid 1-[2,5,6-trimethyl-7-(2,4,6-trimethyl-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-propyl ester | 95 mg | CC=1N=C(C2=C(N1)N(C(=C2C)C)C2=C(C=C(C=C2C)C)C)C(CC)OC(NC)=O | C23H30N4O2
